US08026257B2
(±)-1-(5-Bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate.
To a solution of (±)-1-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethanol (575 mg, 1.55 mmol) and trichloroacetonitrile (1.55 mL, 15.5 mmol) in dichloromethane (15 mL) at room temperature was added diazabicycloundecene (50 μL, 0.33 mmol). After stirring 30 min, the reaction was concentrated and purified by column chromatography (10% EtOAc/Hex+0.5% Et3N) to give 780 mg (98%) as a colorless film. 1H-NMR (CDCl3, 500 MHz) δ 8.30 (s, 1H), 7.92 (d, J=2.4, 1H), 7.79 (d, J=1.5, 1H), 7.69 (d, J=1.8, 1H), 6.67 (q, J=6.4, 1H), 6.25 (d, J=11.6, 1H), 5.70 (d, J=11.6, 1H), 3.42-3.60 (m, 3H), 1.76 (d, J=6.4, 3H), 1.19 (m, 2H), 0.75-1.02 (m, 2H), -0.06 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 161.2, 135.6, 133.1, 128.0, 127.9, 127.6, 123.2, 114.8, 91.4, 80.2, 72.7, 66.1, 22.5, 17.8, −1.4.

reactant | (±)-1-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethanol | 1.55 mmol, 575 mg | BrC=1C=C2C=NN(C2=C(C1)C(C)O)COCC[Si](C)(C)C | C15H23BrN2O2Si
reactant | trichloroacetonitrile | 15.5 mmol, 1.55 mL | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | diazabicycloundecene | 0.33 mmol, 50 μL | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (±)-1-(5-Bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate | ClC(C(OC(C)C=1C=C(C=C2C=NN(C12)COCC[Si](C)(C)C)Br)=N)(Cl)Cl | C17H23BrCl3N3O2Si
